US07196080B2
To a methanol (20 ml) solution of 460 mg of 2-chloro-4-{4-[6-(3,4-dimethoxyphenyl) pyridine-2-carbonyl]piperazin-1-yl}pyrimidine monohydrate was added 150 mg of 10% palladium/carbon, followed by 23 hours of stirring at room temperature under a hydrogen atmosphere of normal pressure. Insoluble matter was removed by filtration and the residue obtained by evaporation of the solvent was purified by silica gel column chromatography (chloroform-methanol) and further, recrystallization was carried out from acetonitrile-diisopropyl ether to obtain 83 mg of 4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}pyrimidine as colorless crystals.

reactant | 2-chloro-4-{4-[6-(3,4-dimethoxyphenyl) pyridine-2-carbonyl]piperazin-1-yl}pyrimidine monohydrate | 460 mg | O.ClC1=NC=CC(=N1)N1CCN(CC1)C(=O)C1=NC(=CC=C1)C1=CC(=C(C=C1)OC)OC
catalyst | palladium/carbon | 150 mg | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}pyrimidine | 83 mg | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=NC=NC=C1 | C22H23N5O3
